US08877704B2
5a) Phenyl 3-(o-tolyl)propanoate
The procedure as described in Example 4a) was repeated with phenol (48 mmol) and 3-o-tolylpropanoyl chloride (55 mmol). The crude product (12.4 g, 97%) was short path distilled at 127-129° C./0.05 mbar to yield 10.6 g (93%) of product as a colourless, semicrystalline oil.

reactant | phenol | 48 mmol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-o-tolylpropanoyl chloride | 55 mmol | C1(=C(C=CC=C1)CCC(=O)Cl)C | C10H11ClO
product | Phenyl 3-(o-tolyl)propanoate | 10.6 g, 93% | C1(=C(C=CC=C1)CCC(=O)OC1=CC=CC=C1)C | C16H16O2
